US06121300
Preparation of 3-(2-(1-thienyl)-2-oxoethyl)-4,5-dimethylthiazolium bromide
A solution of 4,5-dimethylthiazole (2.2 g, 19.4 mmol) and 2-bromoacetylthiophene (4 g, 19.4 mmol) in ethyl alcohol (20 mL) was refluxed for 3 hours. It was cooled to room temperature and t-butyl methyl ether (10 mL) was added. The reaction mixture was left at room temperature overnight with stirring. The white product separated and was filtered and dried. It was crystallized from ethyl alcohol (4.42 g, 73%), m.p. 203-205° C.

reactant | 4,5-dimethylthiazole | 19.4 mmol, 2.2 g | CC=1N=CSC1C | C5H7NS
reactant | 2-bromoacetylthiophene | 19.4 mmol, 4 g | BrCC(=O)C=1SC=CC1 | C6H5BrOS
reactant | t-butyl methyl ether | 10 mL | COC(C)(C)C | C5H12O
solvent | ethyl alcohol | 20 mL | C(C)O | C2H6O
product | 3-(2-(1-thienyl)-2-oxoethyl)-4,5-dimethylthiazolium bromide | [Br-].S1(C=CC=C1)C(C[N+]1=CSC(=C1C)C)=O | InChI=1S/C11H14NOS2.BrH/c1-9-10(2)14-8-12(9)7-11(13)15-5-3-4-6-15;/h3-6,8,15H,7H2,1-2H3;1H/q+1;/p-1
